US04847295
1-cyclopentyl-3-fluoro-3-(4'-aminophenyl)-2-butanone;
1-cyclohexyl-3-(4'-aminophenyl)-4,4,4-trifluoro-2-butanone, and 1-cyclopentyl-3-(4'-aminophenyl)-4,4,4-trifluoro-2-butanone.

reactant | 1-cyclohexyl-3-(4'-aminophenyl)-4,4,4-trifluoro-2-butanone | C1(CCCCC1)CC(C(C(F)(F)F)C1=CC=C(C=C1)N)=O | C16H20F3NO
reactant | 1-cyclopentyl-3-(4'-aminophenyl)-4,4,4-trifluoro-2-butanone | C1(CCCC1)CC(C(C(F)(F)F)C1=CC=C(C=C1)N)=O | C15H18F3NO
product | 1-cyclopentyl-3-fluoro-3-(4'-aminophenyl)-2-butanone | C1(CCCC1)CC(C(C)(C1=CC=C(C=C1)N)F)=O | C15H20FNO
